US05081145
1-(4-chlorobenzyl)-3-methyl-5-methoxy-1H-indole-2-methanol.
1.50 g 1-(4-chlorobenzyl)-3-methyl-5-methoxy-1H-indole-2-carboxylate methyl ester was dissolved in 50 ml dry THF. Diisobutyl aluminum hydride (1.5M) in THF (2 equivalents) was added at -78° C. The reaction was stirred for 16 hrs., allowed to reach room temperature and quenched with NH4Cl (aq.). The organic phase was separated, dried (Na2SO4) and evaporated to produce 1.32 g of product which was purified on column chromatography to yield the title compound of Step 2.

reactant | 1-(4-chlorobenzyl)-3-methyl-5-methoxy-1H-indole-2-carboxylate methyl ester | 1.50 g | COC(=O)C=1N(C2=CC=C(C=C2C1C)OC)CC1=CC=C(C=C1)Cl | C19H18ClNO3
reactant | Diisobutyl aluminum hydride | 1.5M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 2 equivalents | C1CCOC1 | C4H8O
product | 1-(4-chlorobenzyl)-3-methyl-5-methoxy-1H-indole-2-methanol | 1.32 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)C)CO)C=C1 | C18H18ClNO2
